US07576099B2
2-chloro-6-(cyclopropylethynyl)nicotinic acid
The ester was hydrolyzed as follows: Ethyl 2-chloro-6-(2-cyclopropylethynyl)pyridine-3-carboxylate (0.7 g, 2.8 mmol) and lithium hydroxide (0.4 g, 16.86 mmol) were refluxed in a mixture of 30 mL MeOH and 10 mL water. The mixture was cooled and the methanol was removed in vacuo. The remaining solution was acidified to pH 2 with 1M HCl at 0° C. The precipitate was filtered and dried to give 0.4 g (57%) of the title compound. m/z=222.4 (M+1).

reactant | Ethyl 2-chloro-6-(2-cyclopropylethynyl)pyridine-3-carboxylate | 2.8 mmol, 0.7 g | ClC1=NC(=CC=C1C(=O)OCC)C#CC1CC1 | C13H12ClNO2
reactant | lithium hydroxide | 16.86 mmol, 0.4 g | [OH-].[Li+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-chloro-6-(cyclopropylethynyl)nicotinic acid | 0.4 g, 57% | ClC1=C(C(=O)O)C=CC(=N1)C#CC1CC1 | C11H8ClNO2
